US04002759
1-Nitro-2-methylamino-2-[4-(2-pyridyl)butylamino]ethylene
A mixture of 1-nitro-2-methylthio-2-[4-(2-pyridyl)-butylamino]ethylene and 33% ethanolic methylamine were heated on a steam bath for 15 minutes. Concentration, followed by crystallisation from ethyl acetate yielded the title compound m.p. 90°-91°. (Found: C, 57.8; H, 7.2; N, 22.6%. C12H18N4O2 requires: C, 57.6; H, 7.2; N, 22.4 %).

reactant | 1-nitro-2-methylthio-2-[4-(2-pyridyl)-butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC1=NC=CC=C1)SC | C12H17N3O2S
reactant | methylamine | CN | CH5N
product | 1-Nitro-2-methylamino-2-[4-(2-pyridyl)butylamino]ethylene | [N+](=O)([O-])C=C(NCCCCC1=NC=CC=C1)NC | C12H18N4O2
